US08022062B2
1-(2,2-Dimethyl-propane-1-sulfonyl)-4-methyl-benzene:
In a sealed tube, dissolve p-toluenesulfinic acid sodium salt (5.71 g, 32.1 mmol) in DMF (20 mL) and water (10 mL). Add neo-pentyl bromide (6.3 mL, 48 mmol) and tetrabutylammonium iodide (592 mg, 1.60 mmol) and heat the mixture at 145° C. overnight. Cool the reaction to ambient temperature, dilute with water and extract 3 times with EtOAc. Dry over anhydrous Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give the desired intermediate as a colorless oil (3.3 g, 45%).

reactant | p-toluenesulfinic acid sodium salt | 32.1 mmol, 5.71 g | [Na+].C1(=CC=C(C=C1)S(=O)[O-])C
reactant | neo-pentyl bromide | 48 mmol, 6.3 mL | C(C(C)(C)C)Br | C5H11Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | tetrabutylammonium iodide | 1.60 mmol, 592 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(2,2-Dimethyl-propane-1-sulfonyl)-4-methyl-benzene | 3.3 g, 45% | CC(CS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C12H18O2S
